Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever, neck pain, body aches
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female who presents to ___ for fever, 
neck pain and general malaise. She reports a history of recent 
travel to ___ approximately ___ weeks ago, after which she 
developed blisters on her feet from bug bites, which has been 
treated with Bactrim (11 day course, finished yesterday). She 
also reports having traveled to ___ earlier this week, 
which was uneventful. 

Her symptoms of fever, neck pain and malaise began on ___ 
(2 days before presentation to ___, when she felt swelling on 
her left neck, as well as achiness of her whole body. On 
___ she then subjectively felt febrile, and on ___ she 
went to see her PCP who referred her to the ED for suspected 
neck infection. 

In the ED she was found to be febrile to 101.2 and tachycardic 
to 112, and CT scan showed edema with questionable deep space 
neck infection, for which she is admitted. 

She reports no dysphagia, no odynophagia, no dental infection, 
no sinus infection, no sick contacts, no history of trauma or 
injury to the neck. Also denies pain with flexion of the neck. 
She does complain of tenderness along her neck, especially on 
the left, and she reports feeling itchy, along with complaints 
of a fever. No CP, SOB, n/v/d, rashes (aside from skin 
lesions/blisters from bug bites), or chills. Rest ROS negative 
unless stated above. 
 
Past Medical History:
Type 1 diabetes
 
Social History:
___
Family History:
Mother - diabetes (type 2)
 
Physical Exam:
Vitals: In ED, T 101.2, HR 112
On medical floor, T 97.7, HR 74, BP 107/70, RR 16, O2 99% RA

General - no distress, resting in bed and appears comfortable
HEENT - nc/at, eomi, perrla, moist mucous membranes without any 
lesions
Neck - Left side of face appeared more swollen than right; ++ 
exquisite tenderness to palpation submandibular areas 
bilaterally; palpable LN on left that was very tender.
Oropharynx:  Clear, no erythema or exudates, no obvious 
periodontal disease
___ - rrr, s1/2, no m/r/g
Lungs - cta b/l, no w/r/r
Abd - soft nt nd +BS
Ext - no cyanosis/edema
Skin - multiple small healing blisters over dorsal surface of 
both feet, no drainage or purulence noted, otherwise no lesions 
or rashes of skin
Psych - calm and cooperative

97.2 ___ 16 98 RA 
Gen:  NAD, very pleasant
Lung:  CtA B
Facial swelling largely resolved
Neck:  Much decreased tenderness to palpation below left and 
right mandible
CV RRR
Abd Nabs, soft
Ext:  Multiple circular areas of excoriation - site of 
previously healed blisters.  
 
Pertinent Results:
___ 12:50PM   GLUCOSE-188* UREA N-10 CREAT-0.7 SODIUM-128* 
POTASSIUM-3.9 CHLORIDE-95* TOTAL CO2-17* ANION GAP-20
___ 12:50PM   WBC-4.0 RBC-5.07 HGB-15.4 HCT-44.1 MCV-87 
MCH-30.4 MCHC-34.9 RDW-11.9 RDWSD-37.6
___ 12:50PM   PLT COUNT-101*

Discharge Labs
___ 06:08AM BLOOD WBC-4.3 RBC-4.21 Hgb-12.4 Hct-36.7 MCV-87 
MCH-29.5 MCHC-33.8 RDW-12.0 RDWSD-38.5 Plt ___
___ 06:08AM BLOOD Glucose-158* UreaN-10 Creat-0.5 Na-136 
K-3.6 Cl-103 HCO3-24 AnGap-13
___ 06:10AM BLOOD ALT-33 AST-40 AlkPhos-34* TotBili-<0.2
___ 06:08AM BLOOD Calcium-8.1* Phos-3.4

Monospot negative
Blood cultures NGTD
Urine Cx:  Gram positive cocci
Throat cultures pending

CT scan
The salivary glands enhance normally and are without mass or 
adjacent fat 
stranding.  The thyroid gland appears normal.Prominent lymph 
nodes are seen bilaterally deep to and inferior to the parotid 
glands measuring up to 1.3 cm on the right (02:51), likely 
reactive.The neck vessels are patent.  There is edema tracking 
along the neck including along the carotid 
space/jugulodiagastric regions and inferior, mild on the left 
and minimal on the right, deep to the platysma which may 
represent deep space infection. No drainable fluid collection.  
No retropharyngeal edema. 
  
The imaged portion of the lung apices are clear and there are no 
concerning pulmonary nodules. There are no osseous lesions. 
  
IMPRESSION: 
  
  
1. Edema tracking along the neck including along the carotid 
space/jugulodiagastric regions and inferior, mild on the left 
and minimal on the right, deep to the platysma which may 
represent deep space infection.  No drainable fluid collection. 
2. Prominent lymph nodes are seen bilaterally deep to and 
inferior to the 
parotid glands measuring up to 1.3 cm on the right, likely 
reactive. 
  

 
Brief Hospital Course:
A/P

___ with history of DM1 presents to ___ with 2 day history of 
malaise/generalized body aches, fever, and neck pain. 

#Neck pain
#Fever
Her symptoms started as she was finishing her course of Bactrim 
for cellulitis. 
Patient was not febrile during hospitalization (despite having 
fevers at home), and anterior neck was quite tender on arrival, 
more so on left than right, and she had focal tenderness over 
lymph nodes; none over parotid glands or mastoid bones.  
Reviewed case with ENT who noted no clear evidence of deep space 
infection on imaging.  She had no signs or symptoms of 
pharyngtitis on exam, so unclear why she developed isolated 
cervical painful ___ with fevers.  Monospot was negative, and 
throat culture sent for strep/viral etiologies, pending at time 
of discharge.
Her symptoms improved markedly over her hospitalization, with 
dramatic decrease in neck pain and painful ___.  She was started 
on clindamycin given her penicillin allergy.  Unclear if patient 
had reactive ___ to viral infection vs bacterial infection.  
Given her improvement on clindamycin, she will continue a one 
week course.  

#Thrombocytopenia - new per patient, etiology may be related to 
infection, repeat on AM labs and monitor.  Stable on discharge, 
near 101; PCP should ___.  

#Blisters on feet - improving after 11 day course of Bactrim, do 
not appear infected as possible etio of fever. 

#DM - c/w novolog 70/30 21 units BID, diabetic diet; last A1c is 
8, she has not seen her ___ endocrinologist in some time and I 
encouraged her to ___

#Hyponatremia - Na 128 - resolved.

# Pruritus:  ON hands and feet and chest; no rash; no 
eosinophilia on labs; treated with antihistamine and saran

# Hypocalcemia:  Ca 8.1 with normal albumin.  Unclear etiology; 
pcp should recheck

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. NovoLIN 70/30 (insulin NPH and regular human) 21 units 
subcutaneous Q12H 
2. Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Painful cervical lymphadenopathy
2.  Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with neck swelling and pain and were found to 
have enlarged painful lymph nodes in your neck.  These appear to 
have grown due to either a bacterial or viral infection.  You 
improved significantly while taking clindamycin.   We have 
ordered various tests to see if a particular virus caused your 
symptoms, and these are still pending.  
Please continue the clindamycin for the next five days.  If you 
develop diarrhea while taking this medication, please contact 
your PCP.  Also, I have prescribed hydroxyzine should you have 
itching.  I have sent the prescriptions to the ___ in ___. 
 
 
Followup Instructions:
___